* Extracted by KLayout with SG13G2 LVS runset on : 01/09/2026 00:19

.SUBCKT pam4drv_pam4_lay sub msbp msbn lsbp vcmb lsbn tmsb0 tmsb1 tlsb0 vcasc
+ outp outn vcc
Q$1 outn vcasc \$54 sub npn13G2 AE=0.063p PE=1.94u AB=19.2965p PB=19.32u
+ AC=19.283334p PC=19.31u NE=3 m=3
Q$4 outp vcasc \$53 sub npn13G2 AE=0.063p PE=1.94u AB=19.2965p PB=19.32u
+ AC=19.283334p PC=19.31u NE=3 m=3
Q$7 outn vcasc \$52 sub npn13G2 AE=0.063p PE=1.94u AB=19.2965p PB=19.32u
+ AC=19.283334p PC=19.31u NE=3 m=3
Q$10 outn vcasc \$50 sub npn13G2 AE=0.063p PE=1.94u AB=19.2965p PB=19.32u
+ AC=19.283334p PC=19.31u NE=3 m=3
Q$13 outp vcasc \$51 sub npn13G2 AE=0.063p PE=1.94u AB=19.2965p PB=19.32u
+ AC=19.283334p PC=19.31u NE=3 m=3
Q$16 outp vcasc \$49 sub npn13G2 AE=0.063p PE=1.94u AB=19.2965p PB=19.32u
+ AC=19.283334p PC=19.31u NE=3 m=3
Q$19 \$54 lsbn \$15 sub npn13G2 AE=0.063p PE=1.94u AB=19.2965p PB=19.32u
+ AC=19.283334p PC=19.31u NE=3 m=3
Q$22 \$50 msbn \$11 sub npn13G2 AE=0.063p PE=1.94u AB=19.2965p PB=19.32u
+ AC=19.283334p PC=19.31u NE=3 m=3
Q$25 \$51 msbp \$12 sub npn13G2 AE=0.063p PE=1.94u AB=19.2965p PB=19.32u
+ AC=19.283334p PC=19.31u NE=3 m=3
Q$28 \$53 lsbp \$14 sub npn13G2 AE=0.063p PE=1.94u AB=19.2965p PB=19.32u
+ AC=19.283334p PC=19.31u NE=3 m=3
Q$31 \$49 msbp \$10 sub npn13G2 AE=0.063p PE=1.94u AB=19.2965p PB=19.32u
+ AC=19.283334p PC=19.31u NE=3 m=3
Q$34 \$52 msbn \$13 sub npn13G2 AE=0.063p PE=1.94u AB=19.2965p PB=19.32u
+ AC=19.283334p PC=19.31u NE=3 m=3
R$37 vcmb lsbp rsil w=0.58u l=2.85u ps=0 b=0 m=1
R$38 vcmb lsbn rsil w=0.58u l=2.85u ps=0 b=0 m=1
R$39 vcmb msbp rsil w=0.58u l=2.85u ps=0 b=0 m=1
R$40 vcmb msbn rsil w=0.58u l=2.85u ps=0 b=0 m=1
R$41 tmsb0 \$10 rsil w=4.61u l=0.85u ps=0 b=0 m=1
R$42 tmsb0 \$11 rsil w=4.61u l=0.85u ps=0 b=0 m=1
R$43 tmsb1 \$12 rsil w=4.61u l=0.85u ps=0 b=0 m=1
R$44 tmsb1 \$13 rsil w=4.61u l=0.85u ps=0 b=0 m=1
R$45 tlsb0 \$14 rsil w=4.61u l=0.85u ps=0 b=0 m=1
R$46 tlsb0 \$15 rsil w=4.61u l=0.85u ps=0 b=0 m=1
R$47 outp vcc rsil w=1.01u l=5.43u ps=0 b=0 m=1
R$48 outn vcc rsil w=1.01u l=5.43u ps=0 b=0 m=1
C$49 \$13 \$12 cap_cmim w=3.45u l=3.45u A=11.9025p P=13.8u m=1
C$50 \$15 \$14 cap_cmim w=3.45u l=3.45u A=11.9025p P=13.8u m=1
C$51 \$11 \$10 cap_cmim w=3.45u l=3.45u A=11.9025p P=13.8u m=1
.ENDS pam4drv_pam4_lay
